* source CIRCUIT
Q_Q5         N00311 N00464 N00480 QBC846B 
Q_Q6         N00287 N01092 N00476 QBC846B 
Q_Q7         N00460 N03016 N03053 QBC846B 
Q_Q4         N01322 N00311 N00460 QBC856B 
Q_Q2         N00311 N00287 N00339 QBC856B 
Q_Q3         N00287 N00287 N00343 QBC856B 
Q_Q1         N00464 N00841 N00923 QBC856B 
R_R3         N00339 N00460  100 TC=0,0 
R_R4         N00343 N00460  100 TC=0,0 
R_R12         N00488 N00480  100 TC=0,0 
R_R13         N00488 N00476  100 TC=0,0 
R_R17         N00506 N00488  15k TC=0,0 
X_U3         N00460 N03786 1N4148 
X_U4         N03786 N00841 1N4148 
R_R7         0 N00841  22k TC=0,0 
R_R2         N00923 N00460  100k TC=0,0 
R_R8         N01092 N01322  2.7k TC=0,0 
R_R9         N02230 N01092  1k TC=0,0 
J_Q8         0 N01175 N02230 JMMBFJ309LT1 
X_P2         N01179 N01175 0 POT PARAMS: SET=0.7 VALUE=100k
C_C9         0 N01179  4.7u  TC=0,0 
X_U5         N01179 N01322 1N4148 
R_R18         N00506 N01322  2k TC=0,0 
R_R1         N015341 N01322  100 TC=0,0 
R_R11         N015501 N00464  100 TC=0,0 
C_C3         N00464 N07642  33n  TC=0,0 
C_C7         0 N00464  33n  TC=0,0 
R_R10         N020011 N01322  47k TC=0,0 
R_R14         N02165 N020011  15k TC=0,0 
X_P3         0 N03016 N02165 POT PARAMS: SET=1 VALUE=10k
R_R16         N00506 N03053  2k TC=0,0 
C_C4         N03053 N03159  4.7u  TC=0,0 
R_R20         0 N03159  820 TC=0,0 
D_D1         N00460 N032970 SMLS14BET 
D_D2         0 N033130 SMLS14BET 
R_R19         N00506 N033130  1k TC=0,0 
R_R6         0 N032970  1k TC=0,0 
V_V1         N00460 0 13Vdc
V_V2         0 N00506 13Vdc
X_P4         N05875 N05875 0 POT PARAMS: SET=0.5 VALUE=10k
X_P1         N05867 N05867 N07642 POT PARAMS: SET=0.5 VALUE=10k
R_R5         N05867 N015341  1k TC=0,0 
R_R15         N05875 N015501  1k TC=0,0 
C_C5         0 N00464  4.7n  TC=0,0 
C_C1         N00464 N07642  4.7n  TC=0,0 
C_C2         N00464 N07642  10n  TC=0,0 
C_C6         0 N00464  10n  TC=0,0 
C_C8         0 N01179  4.7u  TC=0,0 
